US07576215B2
ETHYL{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENYL}(HYDROXY)ACETATE
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and (4-formyl-phenyl)-hydroxy-acetic acid ethyl ester according to the procedure of step 1, Example 66. MS (ES) m/z 585.3.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | (4-formyl-phenyl)-hydroxy-acetic acid ethyl ester | C(C)OC(C(O)C1=CC=C(C=C1)C=O)=O | C11H12O4
product | ETHYL{4-[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]PHENYL}(HYDROXY)ACETATE | C(C)OC(C(O)C1=CC=C(C=C1)CNC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(C1=CC=CC=C1)=O)=O | C34H27F3N2O4
